US08076359B2
Step 3: 3-{[tert-Butyl(dimethyl)silyl]oxy}-5-[(1E)-3-methoxyprop-1-en-yl]-benzaldehyde
3-Hydroxy-5-[(1E)-3-methoxyprop-1-en-1-yl]benzaldehyde (1 eq.) from the previous step and tert-butylchlorodimethylsilane (1 eq.) were combined in DMF (0.5 M). To this solution was then added imidazole (1.5 eq.), and the reaction mixture was stirred at rt for 16 h. The resulting solution was quenched with water and extracted with ether/hexanes (1:1 v/v). The combined organic extracts were washed with brine, dried over MgSO4, and filtered through a plug of SiO2. Concentration of the filtrate in vacuo afforded the title compound as a pale yellow oil.

reactant | 3-Hydroxy-5-[(1E)-3-methoxyprop-1-en-1-yl]benzaldehyde | 1 eq. | OC=1C=C(C=O)C=C(C1)\C=C\COC | C11H12O3
reactant | tert-butylchlorodimethylsilane | 1 eq. | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 1.5 eq. | N1C=NC=C1 | C3H4N2
solvent | DMF | 0.5 M | CN(C)C=O | C3H7NO
product | 3-{[tert-Butyl(dimethyl)silyl]oxy}-5-[(1E)-3-methoxyprop-1-en-yl]-benzaldehyde | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=C(C1)\C=C\COC | C17H26O3Si
